US07300951B2
5. 5-Chloro-N-[(1S, 2R)-2-ethyl-4,4,4-trifluoro-1-(hydroxymethyl)butyl]thiophene-2-sulfonamide
To a stirred solution of (2S, 3R)-2-amino-3-ethyl-5,5,5-trifluoropentan-1-ol (120 mg, 0.701 mmol), triethylamine (0.1 1 mL, 1.4 mmol) and methylene chloride (50 mL) cooled to 0° C., was added 5-chlorothiophene-2- sulfonyl chloride (220 mg, 0.841 mmol) as a solution in methylene chloride (5 mL), dropwise. After 15 min, the ice bath was removed and the reaction was allowed to attain 25° C. overnight. Additional methylene chloride (15 nL) was added and the reaction mixture was poured into saturated sodium bicarbonate solution (25 mL). The organic phase was separated and washed sequentially with 1N HCl solution, H2O, brine and dried over MgSO4. The organic phase was filtered and evaporated to produce a crude oil (0.36 g) that was purified by flash chromatography using ethyl acetate-hexane, 1–4 as eluent. This provided the title compound 5-chloro-N-[(1S, 2R)-2-ethyl-4,4,4-trifluoro-1-(hydroxymethyl)butyl]thiophene-2-sulfonamide as an oil (125 mg, 53%). The oil (125 mg) was further purified by prep-chiral HPLC [SFC; AD, 25×0.46 cm; mobile phase, 8:2 hexane-ipa (1 mL/min)] to obtain 5-chloro-N-[(1S, 2R)-2-ethyl-4,4,4-trifluoro-1-(hydroxymethyl)butyl]thiophene-2-sulfonamide as a white crystalline solid (0.15 mg, 6.4%, chiral purity 100%, analytical purity 100%).

reactant | (2S, 3R)-2-amino-3-ethyl-5,5,5-trifluoropentan-1-ol | 0.701 mmol, 120 mg | N[C@H](CO)[C@@H](CC(F)(F)F)CC | C7H14F3NO
reactant | triethylamine | 1.4 mmol, 1 mL | C(C)N(CC)CC | C6H15N
reactant | 5-chlorothiophene-2- sulfonyl chloride | 0.841 mmol, 220 mg | ClC1=CC=C(S1)S(=O)(=O)Cl | C4H2Cl2O2S2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 5-chloro-N-[(1S, 2R)-2-ethyl-4,4,4-trifluoro-1-(hydroxymethyl)butyl]thiophene-2-sulfonamide | 125 mg, 53% | ClC1=CC=C(S1)S(=O)(=O)N[C@@H]([C@@H](CC(F)(F)F)CC)CO | C11H15ClF3NO3S2
